US07173031B2
B) 3-Fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine
To a heterogeneous mixture of 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine (3.04 g, 10.55 mmol) in anhydrous methanol (60 mL) and anhydrous tetrahydrofuran (40 mL), at ambient temperature under nitrogen atmosphere, was added zinc dust (6.90 g, 105 mmol) and ammonium chloride (5.64 g, 105 mmol). The mixture was stirred for 7 h before the catalyst was filtered off and the filtrate was concentrated in vacuo to a pale yellow solid which was partitioned between chloroform and water. The aqueous layer was then extracted twice with chloroform. The combined chloroform layers were washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield the title compound (2.51 g, 92%) as a solid. 1H NMR (CDCl3) δ 7.86 (s, 1H), 7.64 (d, 1H, J=2.6 Hz); 7.08–7.03 (m, 1H), 6.61 (d, 1H, J=2.4 Hz), 6.55–6.45 (m, 2H), 3.78 (s, 2H), 2.60 (s, 3H); HRMS(ESI), 259.0995 (M+H)+ calc, 259.0997 (M+H)+ found.

reactant | 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine | 10.55 mmol, 3.04 g | FC1=C(OC2=NC=NN3C2=C(C=C3)C)C=CC(=C1)[N+](=O)[O-] | C13H9FN4O3
reactant | ammonium chloride | 105 mmol, 5.64 g | [Cl-].[NH4+]
solvent | methanol | 60 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | zinc | 105 mmol, 6.90 g | [Zn] | Zn
product | 3-Fluoro-4-(5-methylpyrrolo[2,1-f][1,2,4]triazin-4-yloxy)benzenamine | 2.51 g, 92% | FC=1C=C(C=CC1OC1=NC=NN2C1=C(C=C2)C)N | C13H11FN4O
